US07338973B2
8-methoxy-11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene 5,5-dioxide
To a solution of 8-methoxy-11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene in MeOH (3 mL) and H2O (5 mL) was added OXONE (1.68 g, 2.74 mmol). The reaction mixture was stirred overnight at 25° C. The solvent was removed in vacuo and the residue was then partitioned between saturated NaHCO3 aqueous solution and CH2Cl2, the aqueous layer was extracted with CH2Cl2 and the organic layers were dried and concentrated to yield crude product. The crude product was then purified by flash chromatography to yield the title compound as a white solid.

reactant | 8-methoxy-11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene | COC=1C=C2C=3CSC4=C(C3N(C2=CC1)C)C=CC=C4 | C17H15NOS
reactant | OXONE | 2.74 mmol, 1.68 g | OOS(=O)[O-].[K+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | H2O | 5 mL | O | H2O
product | 8-methoxy-11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene 5,5-dioxide | COC=1C=C2C=3CS(C4=C(C3N(C2=CC1)C)C=CC=C4)(=O)=O | C17H15NO3S
